US05158961
(-)-trans-1(2-cyanoethyl)-4-(4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)-piperidine hydrochloride
1 g of (-)-trans-4-(4-fluorophenyl)-3-(3,4-methylene dioxyphenoxymethyl)-piperidine hydrochloride in 50 ml 99 9% ethanol was mixed with 3-bromopropionitrile (7 ml) and 2 g potassium carbonate. The mixture was refluxed for 70 h. After cooling 25 ml acetone and 25 ml diethylether were added, the precipitate filtered off, and the filtrate evaporated in vacuo. The residue was extracted with 1N NaOH/ether, the ether layer dried (MgSO4) and evaporated to dryness. The residue was dissolved in acetone and excess conc. HCl was added. Subsequent evaporation gave a hard glass, which was purified on a silica gel column using 99.5% ethanol as eluent. The title compound was isolated, and its structure confirmed by the IR and NMR data. M.p. 156° C.

reactant | (-)-trans-4-(4-fluorophenyl)-3-(3,4-methylene dioxyphenoxymethyl)-piperidine hydrochloride | 1 g | Cl.FC1=CC=C(C=C1)[C@H]1[C@@H](CNCC1)COC1=CC2=C(C=C1)OCO2
reactant | ethanol | C(C)O | C2H6O
reactant | 3-bromopropionitrile | 7 ml | BrCCC#N | C3H4BrN
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethylether | 25 ml | C(C)OCC | C4H10O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | (-)-trans-1(2-cyanoethyl)-4-(4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)-piperidine hydrochloride | Cl.C(#N)CCN1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)COC1=CC2=C(C=C1)OCO2 | InChI=1S/C22H23FN2O3.ClH/c23-18-4-2-16(3-5-18)20-8-11-25(10-1-9-24)13-17(20)14-26-19-6-7-21-22(12-19)28-15-27-21;/h2-7,12,17,20H,1,8,10-11,13-15H2;1H/t17-,20-;/m0./s1
